* c:\users\yamin\esim-workspace\universal_shift_register\universal_shift_register.cir

* u16  clk net-_u14-pad1_ adc_bridge_1
* u17  rst net-_u14-pad2_ adc_bridge_1
* u18  parallel_in7 net-_u14-pad3_ adc_bridge_1
* u19  parallel_in6 net-_u14-pad4_ adc_bridge_1
* u20  parallel_in5 net-_u14-pad5_ adc_bridge_1
* u21  parallel_in4 net-_u14-pad6_ adc_bridge_1
* u22  parallel_in3 net-_u14-pad7_ adc_bridge_1
* u23  parallel_in2 net-_u14-pad8_ adc_bridge_1
* u24  parallel_in1 net-_u14-pad9_ adc_bridge_1
* u25  parallel_in0 net-_u14-pad10_ adc_bridge_1
* u26  left_bit net-_u14-pad11_ adc_bridge_1
* u27  right_bit net-_u14-pad12_ adc_bridge_1
* u28  mode1 net-_u14-pad13_ adc_bridge_1
* u29  mode0 net-_u14-pad14_ adc_bridge_1
* u30  net-_u14-pad15_ parallel_out7 dac_bridge_1
* u31  net-_u14-pad16_ parallel_out6 dac_bridge_1
* u32  net-_u14-pad17_ parallel_out5 dac_bridge_1
* u33  net-_u14-pad18_ parallel_out4 dac_bridge_1
* u34  net-_u14-pad19_ parallel_out3 dac_bridge_1
* u35  net-_u14-pad20_ parallel_out2 dac_bridge_1
* u36  net-_u14-pad21_ parallel_out1 dac_bridge_1
* u37  net-_u14-pad22_ parallel_out0 dac_bridge_1
* u38  net-_u14-pad23_ serial_out dac_bridge_1
* CLOCK: 1s period, rising edges at 0.5, 1.5, 2.5, ...
v1 clk gnd pulse(0 5 0 1n 1n 0.5 1)

* RESET: active-low, released once
v2 rst gnd pwl(0 0 0.3 0 0.3001 5 11 5)

* PARALLEL INPUT = 10110011
v3 parallel_in7 gnd dc 5
v4 parallel_in6 gnd dc 0
v5 parallel_in5 gnd dc 5
v6 parallel_in4 gnd dc 5
v7 parallel_in3 gnd dc 0
v8 parallel_in2 gnd dc 0
v9 parallel_in1 gnd dc 5
v10 parallel_in0 gnd dc 5

* SHIFT INPUTS
v11 left_bit  gnd dc 0
v12 right_bit gnd dc 5

* MODE sequence
* 0.0 to 1.3   -> 00 HOLD
* 1.3 to 2.3   -> 11 PARALLEL LOAD
* 2.3 to 3.3   -> 00 HOLD
* 3.3 to 6.3   -> 01 SHIFT LEFT
* 6.3 to 7.3   -> 00 HOLD
* 7.3 to 10.3  -> 10 SHIFT RIGHT

* mode1
v13 mode1 gnd pwl(0 0 1.3 0 1.3001 5 2.3 5 2.3001 0 7.3 0 7.3001 5 11 5)

* mode0
v14 mode0 gnd pwl(0 0 1.3 0 1.3001 5 2.3 5 2.3001 0 3.3 0 3.3001 5 6.3 5 6.3001 0 11 0)


* u39  parallel_out7 plot_v1
* u40  parallel_out6 plot_v1
* u41  parallel_out5 plot_v1
* u42  parallel_out4 plot_v1
* u43  parallel_out3 plot_v1
* u44  parallel_out2 plot_v1
* u45  parallel_out1 plot_v1
* u46  parallel_out0 plot_v1
* u47  serial_out plot_v1
* u1  clk plot_v1
* u2  rst plot_v1
* u4  parallel_in7 plot_v1
* u6  parallel_in6 plot_v1
* u8  parallel_in5 plot_v1
* u10  parallel_in4 plot_v1
* u12  parallel_in3 plot_v1
* u15  parallel_in2 plot_v1
* u3  parallel_in1 plot_v1
* u5  parallel_in0 plot_v1
* u7  left_bit plot_v1
* u9  right_bit plot_v1
* u11  mode1 plot_v1
* u13  mode0 plot_v1
* u14  net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ net-_u14-pad4_ net-_u14-pad5_ net-_u14-pad6_ net-_u14-pad7_ net-_u14-pad8_ net-_u14-pad9_ net-_u14-pad10_ net-_u14-pad11_ net-_u14-pad12_ net-_u14-pad13_ net-_u14-pad14_ net-_u14-pad15_ net-_u14-pad16_ net-_u14-pad17_ net-_u14-pad18_ net-_u14-pad19_ net-_u14-pad20_ net-_u14-pad21_ net-_u14-pad22_ net-_u14-pad23_ universal_shift_register
a1 [clk ] [net-_u14-pad1_ ] u16
a2 [rst ] [net-_u14-pad2_ ] u17
a3 [parallel_in7 ] [net-_u14-pad3_ ] u18
a4 [parallel_in6 ] [net-_u14-pad4_ ] u19
a5 [parallel_in5 ] [net-_u14-pad5_ ] u20
a6 [parallel_in4 ] [net-_u14-pad6_ ] u21
a7 [parallel_in3 ] [net-_u14-pad7_ ] u22
a8 [parallel_in2 ] [net-_u14-pad8_ ] u23
a9 [parallel_in1 ] [net-_u14-pad9_ ] u24
a10 [parallel_in0 ] [net-_u14-pad10_ ] u25
a11 [left_bit ] [net-_u14-pad11_ ] u26
a12 [right_bit ] [net-_u14-pad12_ ] u27
a13 [mode1 ] [net-_u14-pad13_ ] u28
a14 [mode0 ] [net-_u14-pad14_ ] u29
a15 [net-_u14-pad15_ ] [parallel_out7 ] u30
a16 [net-_u14-pad16_ ] [parallel_out6 ] u31
a17 [net-_u14-pad17_ ] [parallel_out5 ] u32
a18 [net-_u14-pad18_ ] [parallel_out4 ] u33
a19 [net-_u14-pad19_ ] [parallel_out3 ] u34
a20 [net-_u14-pad20_ ] [parallel_out2 ] u35
a21 [net-_u14-pad21_ ] [parallel_out1 ] u36
a22 [net-_u14-pad22_ ] [parallel_out0 ] u37
a23 [net-_u14-pad23_ ] [serial_out ] u38
a24 [net-_u14-pad1_ ] [net-_u14-pad2_ ] [net-_u14-pad3_ net-_u14-pad4_ net-_u14-pad5_ net-_u14-pad6_ net-_u14-pad7_ net-_u14-pad8_ net-_u14-pad9_ net-_u14-pad10_ ] [net-_u14-pad11_ ] [net-_u14-pad12_ ] [net-_u14-pad13_ net-_u14-pad14_ ] [net-_u14-pad15_ net-_u14-pad16_ net-_u14-pad17_ net-_u14-pad18_ net-_u14-pad19_ net-_u14-pad20_ net-_u14-pad21_ net-_u14-pad22_ ] [net-_u14-pad23_ ] u14
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u17 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u20 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u21 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u22 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u23 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u24 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u25 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u26 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u27 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u28 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u29 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u30 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u31 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u32 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u33 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u34 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u35 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u36 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u37 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u38 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             universal_shift_register, NgSpice Name: universal_shift_register
.model u14 universal_shift_register(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.001e-00 12e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt


display
set xbrushwidth = 3

plot v(clk)+10v(rst) + 20v(left_bit) + 30v(right_bit) + 40v(mode1) + 50v(mode0)+60
plot v(parallel_in0)+10 v(parallel_in1)+20 v(parallel_in2)+30 v(parallel_in3)+40 v(parallel_in4)+50 v(parallel_in5)+60 v(parallel_in6)+70 v(parallel_in7) +80
plot v(parallel_out0)+10 v(parallel_out1)+20 v(parallel_out2)+30 v(parallel_out3)+40 v(parallel_out4)+50 v(parallel_out5)+60 v(parallel_out6)+70 v(parallel_out7) + 80 v(serial_out)+90



.endc
.end
