.title kicad schematic

.include vending_fsm_sb.sub
v3 /coin_50 gnd pulse(0 5 5u 1n 1n 2u 100m)
v4 /coin_100 gnd pulse(0 5 10u 1n 1n 2u 100m)
v1 /clk gnd pulse(0 5 0 1n 1n 490n 1u)
v2 /rst gnd pulse(5 0 2u 1n 1n 100m 100m)
v5 /buy gnd pulse(0 5 15u 1n 1n 2u 100m)
x1 /clk /rst /coin_50 /coin_100 /buy /deispense change7 chnage6 change5 change4 change3 change2 /change1 /change0 balance7 balance6 balance5 balance4 balance3 balance2 /balance1 /balance0 vending_fsm_sb
* u1 /deispense plot_v1
* u4 /change0 plot_v1
* u2 /change1 plot_v1
* u5 /balance0 plot_v1
* u3 /balance1 plot_v1
.tran 10e-09 25e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(/deispense)
plot v(/change0)
plot v(/change1)
plot v(/balance0)
plot v(/balance1)
.endc
.end
