.title kicad schematic

.include vga.sub
v1 net-_x1-pad1_ gnd pulse(0 5 0 1n 1n 19n 40n)
v2 net-_x1-pad2_ gnd pulse(5 0 100n 1n 1n 1000m 1000m)
x1 net-_x1-pad1_ net-_x1-pad2_ /hsync_plot /vsync_plot /video x_pos9 x_pos8 x_pos7 x_pos6 x_pos5 x_pos4 x_pos3 x_pos2 x_pos1 x_pos0 y_pos9 y_pos8 y_pos7 y_pos6 y_pos5 y_pos4 y_pos3 y_pos2 y_pos1 y_pos0 vga
* u3 /video plot_v1
* u2 /vsync_plot plot_v1
* u1 /hsync_plot plot_v1
.tran 10e-09 100e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(/video)
plot v(/vsync_plot)
plot v(/hsync_plot)
.endc
.end
