.title kicad schematic

* u1 /clk net-_u1-pad2_ adc_bridge_1
* u2 /rst net-_u2-pad2_ adc_bridge_1
* u3 net-_u1-pad2_ net-_u2-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ vga_timing_gen
* u6 net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ /y_pos7 /y_pos6 /y_pos5 /y_pos4 /y_pos3 /y_pos2 /y_pos1 /y_pos0 dac_bridge_8
* u4 net-_u3-pad3_ /hsync dac_bridge_1
* u7 net-_u3-pad4_ /vsync dac_bridge_1
* u8 net-_u3-pad5_ /video_on dac_bridge_1
* u9 net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ /x_pos1 /x_pos0 /y_pos9 /y_pos8 dac_bridge_4
* u5 net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ /x_pos9 /x_pos8 /x_pos7 /x_pos6 /x_pos5 /x_pos4 /x_pos3 /x_pos2 dac_bridge_8
a1 [/clk ] [net-_u1-pad2_ ] u1
a2 [/rst ] [net-_u2-pad2_ ] u2
a3 [net-_u1-pad2_ ] [net-_u2-pad2_ ] [net-_u3-pad3_ ] [net-_u3-pad4_ ] [net-_u3-pad5_ ] [net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ ] [net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ ] u3
a4 [net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ ] [/y_pos7 /y_pos6 /y_pos5 /y_pos4 /y_pos3 /y_pos2 /y_pos1 /y_pos0 ] u6
a5 [net-_u3-pad3_ ] [/hsync ] u4
a6 [net-_u3-pad4_ ] [/vsync ] u7
a7 [net-_u3-pad5_ ] [/video_on ] u8
a8 [net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ ] [/x_pos1 /x_pos0 /y_pos9 /y_pos8 ] u9
a9 [net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ ] [/x_pos9 /x_pos8 /x_pos7 /x_pos6 /x_pos5 /x_pos4 /x_pos3 /x_pos2 ] u5
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             vga_timing_gen, Ngspice Name: vga_timing_gen
.model u3 vga_timing_gen(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
